US07053212B2
Step B: N-(2-Hydroxy-benzyl)-2,4,6-trimethyl-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-benzenesulfonamide
To a solution of 2,4,6-trimethyl-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-[2-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide (0.039 g, 0.07 mmol) in 4 mL absolute ethanol was added 1 mL of 1.2N HCl. The reaction mixture was stirred at room temperature for 24 hr. and was poured into saturated aqueous sodium bicarbonate. The aqueous solution was washed with two portions of ethyl acetate. The combined organic layers were dried (sodium sulfate), filtered, and concentrated. The residue was purified by preparative TLC (1.0 mm silica gel layer, eluting with 10% methanol/methylene chloride) to afford 0.004 g of the title compound. MS 494.8 (M+1)+

reactant | 2,4,6-trimethyl-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-[2-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide | 0.07 mmol, 0.039 g | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)N(CC1=C(C=CC=C1)OC1OCCCC1)C1=CC=C(C=C1)OCCN1CCCC1 | C33H42N2O5S
reactant | HCl | 1.2N, 1 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | N-(2-Hydroxy-benzyl)-2,4,6-trimethyl-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-benzenesulfonamide | 0.004 g | OC1=C(CN(S(=O)(=O)C2=C(C=C(C=C2C)C)C)C2=CC=C(C=C2)OCCN2CCCC2)C=CC=C1 | C28H34N2O4S
